### PR TITLE
[Merged by Bors] - chore: rename PartialHomeomorph to OpenPartialHomeomorph

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR renames `PartialHomeomorph` to `OpenPartialHomeomorph` as discussed in [#mathlib4 > Generalizing &#96;PartialHomeomorph&#96;?](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Generalizing.20.60PartialHomeomorph.60.3F). This is the first step towards generalizing `PartialHomeomorph` to allow arbitrary sources and targets. 

---
This is the first time that I am doing this type of renaming. I tried to do everything well but I am not sure that I did it how it is supposed to be done. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 1]
```diff
@@ -672,13 +672,13 @@ lemma Asymptotics.IsBigO.comp_summable_norm {ι E F : Type*}
...
 
-namespace PartialHomeomorph
+namespace OpenPartialHomeomorph
 
 variable {α : Type*} {β : Type*} [TopologicalSpace α] [TopologicalSpace β]
 variable {E : Type*} [Norm E] {F : Type*} [Norm F]
 
-/-- Transfer `IsBigOWith` over a `PartialHomeomorph`. -/
-theorem isBigOWith_congr (e : PartialHomeomorph α β) {b : β} (hb : b ∈ e.target) {f : β → E}
+/-- Transfer `IsBigOWith` over a `OpenPartialHomeomorph`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]: Can you search for similar instances, please?
```suggestion
/-- Transfer `IsBigOWith` over an `OpenPartialHomeomorph`. -/
```

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 2]
```diff
@@ -689,19 +689,19 @@ theorem isBigOWith_congr (e : PartialHomeomorph α β) {b : β} (hb : b ∈ e.ta
       ((e.eventually_right_inverse hb).mono fun _ hx => congr_arg f hx)
       ((e.eventually_right_inverse hb).mono fun _ hx => congr_arg g hx)⟩
 
-/-- Transfer `IsBigO` over a `PartialHomeomorph`. -/
-theorem isBigO_congr (e : PartialHomeomorph α β) {b : β} (hb : b ∈ e.target) {f : β → E}
+/-- Transfer `IsBigO` over a `OpenPartialHomeomorph`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]: Same here

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 3]
```diff
@@ -689,19 +689,19 @@ theorem isBigOWith_congr (e : PartialHomeomorph α β) {b : β} (hb : b ∈ e.ta
...
+theorem isBigO_congr (e : OpenPartialHomeomorph α β) {b : β} (hb : b ∈ e.target) {f : β → E}
     {g : β → F} : f =O[𝓝 b] g ↔ (f ∘ e) =O[𝓝 (e.symm b)] (g ∘ e) := by
   simp only [IsBigO_def]
   exact exists_congr fun C => e.isBigOWith_congr hb
 
-/-- Transfer `IsLittleO` over a `PartialHomeomorph`. -/
-theorem isLittleO_congr (e : PartialHomeomorph α β) {b : β} (hb : b ∈ e.target) {f : β → E}
+/-- Transfer `IsLittleO` over a `OpenPartialHomeomorph`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]: And here

File: Mathlib/Analysis/Calculus/InverseFunctionTheorem/ApproximatesLinearOn.lean [hunk 4]
```diff
@@ -16,14 +16,14 @@ behave like `f a + f' (x - a)` near each `a ∈ s`.
 When `f'` is onto, we show that `f` is locally onto.
 
 When `f'` is a continuous linear equiv, we show that `f` is a homeomorphism
-between `s` and `f '' s`. More precisely, we define `ApproximatesLinearOn.toPartialHomeomorph` to
-be a `PartialHomeomorph` with `toFun = f`, `source = s`, and `target = f '' s`.
-between `s` and `f '' s`. More precisely, we define `ApproximatesLinearOn.toPartialHomeomorph` to
-be a `PartialHomeomorph` with `toFun = f`, `source = s`, and `target = f '' s`.
+between `s` and `f '' s`. More precisely, we define `ApproximatesLinearOn.toOpenPartialHomeomorph`
+to be a `OpenPartialHomeomorph` with `toFun = f`, `source = s`, and `target = f '' s`.
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/InverseFunctionTheorem/ApproximatesLinearOn.lean]:
```suggestion
to be an `OpenPartialHomeomorph` with `toFun = f`, `source = s`, and `target = f '' s`.
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 5]
```diff
@@ -125,15 +125,15 @@ end strips
 
 section ofComplex
 
-/-- A section `ℂ → ℍ` of the natural inclusion map, bundled as a `PartialHomeomorph`. -/
-def ofComplex : PartialHomeomorph ℂ ℍ := (isOpenEmbedding_coe.toPartialHomeomorph _).symm
+/-- A section `ℂ → ℍ` of the natural inclusion map, bundled as a `OpenPartialHomeomorph`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean]:
```suggestion
/-- A section `ℂ → ℍ` of the natural inclusion map, bundled as an `OpenPartialHomeomorph`. -/
```

**Review by grunweg — COMMENTED** [review]
I looked at the first 9 or 10 files: looks great so far. Can you fix the grammar, please?

**Comment by fpvandoorn** [comment]
bors merge

**Comment by fpvandoorn** [comment]
(merging because there is agreement in the Zulip thread that this is a good change)
